US07173023B2
7-(3-Fluoro-benzyloxy)-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic Acid Methyl Ester
The title compound was prepared in analogy to Example 1d) from 7-(3-fluoro-benzyloxy)-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride [Example 1c)] and methyl chloroformate with triethylamine as the base. Yield: 95% of theory as a colourless oil; MS: m/e=330 (M+H)+.

reactant | 7-(3-fluoro-benzyloxy)-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride | Cl.FC=1C=C(COC2=CC3=C(CCNCC3)C=C2)C=CC1
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 7-(3-Fluoro-benzyloxy)-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic Acid Methyl Ester | Yield: 95% | COC(=O)N1CCC2=C(CC1)C=C(C=C2)OCC2=CC(=CC=C2)F | C19H20FNO3
